US07456218B2
ethyl 3-(4-{[2′,6′-dimethyl-4′-(tetrahydro-2H-thiopyran-4-yloxy)biphenyl-3-yl]methoxy}-2-fluorophenyl)propanoate
To a solution of ethyl 3-{2-fluoro-4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate (0.50 g, 1.18 mmol), tetrahydro-2H-thiopyran-4-ol (0.15 g, 1.30 mmol) and triphenylphosphine (0.31 g, 1.30 mmol) in tetrahydrofuran (10 mL) was added diethyl azodicarboxylate (40% toluene solution, 0.70 mL, 1.53 mmol) at room temperature with stirring. The reaction mixture was stirred at room temperature for 19 hrs., and an equivalent amount of the aforementioned reagents (tetrahydro-2H-thiopyran-4-ol, triphenylphosphine and diethyl azodicarboxylate) were added. The mixture was further stirred at the same temperature for 6 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=3/1) to give the title compound (0.53 g, yield 91%) as a yellow oil.

reactant | ethyl 3-{2-fluoro-4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]phenyl}propanoate | 1.18 mmol, 0.50 g | FC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C1=C(C=C(C=C1C)O)C)CCC(=O)OCC | C26H27FO4
reactant | tetrahydro-2H-thiopyran-4-ol | 1.30 mmol, 0.15 g | S1CCC(CC1)O | C5H10OS
reactant | triphenylphosphine | 1.30 mmol, 0.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.53 mmol, 0.70 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | ethyl 3-(4-{[2′,6′-dimethyl-4′-(tetrahydro-2H-thiopyran-4-yloxy)biphenyl-3-yl]methoxy}-2-fluorophenyl)propanoate | 0.53 g, yield 91% | CC1=C(C(=CC(=C1)OC1CCSCC1)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)OCC)F | C31H35FO4S
